US07667053B2
2-Methyl-1,2,3,4-tetrahydro-2-naphthoic acid
The title compound was prepared following the procedures described for Reference Example 5 substituting 2,3-dihydrofuran-2-carboxylic acid with 1,2,3,4-tetrahydro-2-naphthoic acid at Step A and potassium tert-butoxide in tetrahydrofuran with potassium hexamethyldisilazide (0.5 M in toluene) at Step B. 1H NMR (500 MHz, CD3OD): δ 7.12-7.0 (m, 4H), 3.71 (d, 1H), 3.22 (d, 1H), 2.84 (t, 1H), 2.65 (d, 1H), 2.17 (m, 1H), 1.77 (m, 1H), 1.28 (s, 3H).

reactant | 2,3-dihydrofuran-2-carboxylic acid | O1C(CC=C1)C(=O)O | C5H6O3
reactant | 1,2,3,4-tetrahydro-2-naphthoic acid | C1C(CCC2=CC=CC=C12)C(=O)O | C11H12O2
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | potassium hexamethyldisilazide | 0.5 M | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-Methyl-1,2,3,4-tetrahydro-2-naphthoic acid | CC1(CC2=CC=CC=C2CC1)C(=O)O | C12H14O2
